US04760163
using isopropyl 4-bromo-2-fluoro-5-ureidobenzoate and ethyl cyclopentanon-2-carboxylate is toluene there is obtained isopropyl 4-bromo-2-fluoro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate, m.p. 166°-168° C.

reactant | isopropyl 4-bromo-2-fluoro-5-ureidobenzoate | BrC1=CC(=C(C(=O)OC(C)C)C=C1NC(=O)N)F | C11H12BrFN2O3
reactant | ethyl cyclopentanon-2-carboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | isopropyl 4-bromo-2-fluoro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate | BrC1=CC(=C(C(=O)OC(C)C)C=C1NC(=O)NC1=C(CCC1)C(=O)OCC)F | C19H22BrFN2O5
